2140-12-29 09:50:00 Physician Attending Progress Note
Chief Complaint: Hypoxemia, hypercarbia, hypotension with hx of OSA,
   Pulm HTN, 4+ TR, non compliant with meds/O2/CPAP
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Altered mental status and hypercarbic + hypoxemic resp failure
   24 Hour Events:
   Tolerated bipap well overnight, off this am.
   PCO2 max 79
   Diuresed with lasix drip overnight, metroprolol held
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-12-29**] 09:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.3
C (97.4
   HR: 60 (60 - 66) bpm
   BP: 115/48(64) {96/40(54) - 133/65(80)} mmHg
   RR: 25 (16 - 26) insp/min
   SpO2: 89%
   Heart rhythm: A Paced
             Total In:
             194 mL
   PO:
             TF:
   IVF:
   194 mL
   Blood products:
   Total out:
                                                                  1,880 mL
                                                                  1,020 mL
   Urine:
                                                                    680 mL
                                                                  1,020 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,880 mL
                                                                   -827 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 399 (399 - 539) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 20 cmH2O
   SpO2: 89%
   ABG: 7.36/71/55/38/10
   Ve: 5.2 L/min
   PaO2 / FiO2: 92
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), irregular, loud systolic
   murmer L parasternal, do not appreciate loud A2P2, JVP to earlobes
   Peripheral Vascular: all present
   Respiratory / Chest: Breath Sounds: Diminished, few crackles at bases
   Extremities: Right: 2+, Left: 2+, venous stasis changes
   Neurologic: wnl
   Labs / Radiology
   10.1 g/dL
   185 K/uL
   99 mg/dL
   1.8 mg/dL
   38 mEq/L
   4.6 mEq/L
   59 mg/dL
   102 mEq/L
   145 mEq/L
   31.1 %
   4.7 K/uL
        [image002.jpg]
                             [**2140-12-28**]  08:37 PM
                             [**2140-12-28**]  09:04 PM
                             [**2140-12-28**]  10:46 PM
                             [**2140-12-29**]  04:26 AM
   WBC
   6.1
   4.7
   Hct
   32.9
   31.1
   Plt
   183
   185
   Cr
   1.9
   1.8
   TropT
   0.01
   0.02
   TCO2
   40
   42
   Glucose
   131
   99
   Other labs: CK / CKMB / Troponin-T:35//0.02, Lactic Acid:0.9 mmol/L,
   Ca++:8.9 mg/dL, Mg++:2.7 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 HYPOXEMIA
 IMPAIRED SKIN INTEGRITY
   80 y/o F with hx of severe pulm HTN, 4+ TR, OSA, COPD, pafib,
   hemorrhagic CVA, CRF, GERD, hypothyroidism presents with hypercarbic
   hypoxemic resp failure. Unclear what tipped her over, ? arrythmia, ?
   medication/fluid non compliance, worsening pum HTN.
   Continue lasix drip, watch electrolytes, consider adding spironolactone
   if doesnt work. Teds/boots to mobilize peripheral fluid.
   Try to keep off bipap, on home O2 6L
   Check TTE with bubble to r/o leak thru previous ASD fixture.
   Check TSH (6 in [**Month (only) **])
   Continue inhalers for COPD
   Rest per housestaff note
   ICU Care
   Nutrition: po
   Glycemic Control:
   Lines / Intubation:
   22 Gauge - [**2140-12-28**] 08:20 PM
   20 Gauge - [**2140-12-28**] 08:57 PM
   Comments:
   Prophylaxis:
   DVT: sc hep
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: full
   Disposition: floor
   Total time spent: 35 min

2140-12-30 10:03:00 Physician Attending Progress Note
Chief Complaint: Pulm HTN, pulm edema
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Intermitent desats, bipap overnight, diuresed.
   No ASD in, RVSP 95-105, dilated hypokinetic RV
   TSH 5, synthroid increased
   Lenis: neg
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 6 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2140-12-30**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-12-30**] 09:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.6
C (97.8
   HR: 61 (60 - 67) bpm
   BP: 113/45(63) {83/37(35) - 134/90(107)} mmHg
   RR: 26 (11 - 32) insp/min
   SpO2: 89%
   Heart rhythm: A Paced
             Total In:
                                                                  1,303 mL
                                                                    334 mL
   PO:
                                                                    800 mL
                                                                    150 mL
   TF:
   IVF:
                                                                    503 mL
                                                                    184 mL
   Blood products:
   Total out:
                                                                  2,800 mL
                                                                  1,025 mL
   Urine:
                                                                  2,800 mL
                                                                  1,025 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,497 mL
                                                                   -691 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 412 (412 - 926) mL
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 0%
   PIP: 20 cmH2O
   SpO2: 89%
   ABG: ///40/
   Ve: 3.9 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), irregular, loud systolic
   murmer L parasternal, do not appreciate loud A2P2, JVP to earlobes
   Peripheral Vascular: all present
   Respiratory / Chest: Breath Sounds: Diminished, no crackles today
   Extremities: Right: 2+, Left: 2+, venous stasis changes
   Neurologic: wnl
   Labs / Radiology
   9.7 g/dL
   170 K/uL
   95 mg/dL
   1.8 mg/dL
   40 mEq/L
   3.9 mEq/L
   55 mg/dL
   101 mEq/L
   147 mEq/L
   29.8 %
   4.5 K/uL
        [image002.jpg]
                             [**2140-12-28**]  08:37 PM
                             [**2140-12-28**]  09:04 PM
                             [**2140-12-28**]  10:46 PM
                             [**2140-12-29**]  04:26 AM
                             [**2140-12-29**]  08:39 PM
                             [**2140-12-30**]  03:57 AM
   WBC
   6.1
   4.7
   4.5
   Hct
   32.9
   31.1
   29.8
   Plt
   183
   185
   170
   Cr
   1.9
   1.8
   1.9
   1.8
   TropT
   0.01
   0.02
   TCO2
   40
   42
   Glucose
   131
   99
   111
   95
   Other labs: PT / PTT / INR:14.2/32.8/1.2, CK / CKMB /
   Troponin-T:35//0.02, Lactic Acid:0.9 mmol/L, Ca++:8.5 mg/dL, Mg++:2.5
   mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 HYPOXEMIA
 IMPAIRED SKIN INTEGRITY
   80 y/o F with hx of severe pulm HTN, 4+ TR, OSA, COPD, pafib,
   hemorrhagic CVA, CRF, GERD, hypothyroidism presents with hypercarbic
   hypoxemic resp failure. Fluid status much improved after diuresis and
   bipap.
   Pacer: interrogation to r/o arrythmia tiping her over.
   Card: Switch lasix drip to iv bolus, watch electrolytes. Teds/boots to
   mobilize peripheral fluid.
   Add digoxin for RV dysfucntion.
   Pulm HTN: add sildenafil when patient agreeable
   Increasing bicarb: add acetazolamide x 5 days
   Resp: q nightly bipap
   Hypothyroid: synthroid increased
   Continue inhalers for COPD
   Rest per housestaff note
   ICU Care
   Nutrition: po
   Glycemic Control:
   Lines / Intubation:
   22 Gauge - [**2140-12-28**] 08:20 PM
   20 Gauge - [**2140-12-28**] 08:57 PM
   Comments:
   Prophylaxis:
   DVT: sc hep
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: full
   Disposition: floor
   Total time spent: 35 min

2140-12-31 07:49:00 Physician Resident Progress Note
Chief Complaint: Respiratory Failure
   24 Hour Events:
   Pt diureses with lasix 40mg IV BID, - 700cc overnight
   Pt refused Bipap overnight, only agreeable to wearing nasal cannula
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2140-12-31**] 07:30 AM
   Furosemide (Lasix) - [**2140-12-31**] 07:34 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-12-31**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.6
C (97.8
   HR: 60 (60 - 67) bpm
   BP: 98/41(71) {92/38(54) - 130/103(110)} mmHg
   RR: 23 (13 - 26) insp/[**Year (4 digits) **]
   SpO2: 94%
   Heart rhythm: A Paced
             Total In:
                                                                  1,864 mL
                                                                    355 mL
   PO:
                                                                    860 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  1,004 mL
                                                                    255 mL
   Blood products:
   Total out:
                                                                  2,495 mL
                                                                    810 mL
   Urine:
                                                                  2,495 mL
                                                                    810 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -631 mL
                                                                   -456 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 800 (800 - 800) mL
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 0%
   PIP: 21 cmH2O
   SpO2: 94%
   ABG: ///35/
   Ve: 2 L/[**Year (4 digits) **]
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   173 K/uL
   10.6 g/dL
   90 mg/dL
   1.8 mg/dL
   35 mEq/L
   4.1 mEq/L
   54 mg/dL
   99 mEq/L
   142 mEq/L
   34.5 %
   4.8 K/uL
        [image002.jpg]
                             [**2140-12-28**]  08:37 PM
                             [**2140-12-28**]  09:04 PM
                             [**2140-12-28**]  10:46 PM
                             [**2140-12-29**]  04:26 AM
                             [**2140-12-29**]  08:39 PM
                             [**2140-12-30**]  03:57 AM
                             [**2140-12-30**]  04:00 PM
                             [**2140-12-31**]  04:55 AM
   WBC
   6.1
   4.7
   4.5
   4.8
   Hct
   32.9
   31.1
   29.8
   34.5
   Plt
   183
   185
   170
   173
   Cr
   1.9
   1.8
   1.9
   1.8
   1.8
   1.8
   TropT
   0.01
   0.02
   TCO2
   40
   42
   Glucose
   131
   99
   111
   95
   103
   90
   Other labs: PT / PTT / INR:14.2/32.8/1.2, CK / CKMB /
   Troponin-T:35//0.02, Lactic Acid:0.9 mmol/L, Ca++:8.7 mg/dL, Mg++:2.4
   mg/dL, PO4:3.5 mg/dL
   Imaging: CXR [**12-30**] - New opacification in the right mid lung marginated
   by the major fissure could
   be right upper lobe consolidation or alternatively mild pulmonary edema
   and
   fissural pleural fluid since there is a small volume of pleural fluid
   at the
   base of the right hemithorax. Severe cardiomegaly and mammoth pulmonary
   arteries are longstanding. Left upper lung is clear, the base is
   partially
   atelectatic. Transvenous right atrial and right ventricular pacer leads
   are
   in standard placements. No pneumothorax.
   Assessment and Plan
   This is an 80 year old Russian speakin female with hx of Diastolic CHF,
   COPD, OSA, Pulmonary HTN on 6L home O2 who is transferred to the ICU
   with hypoxemia/hypercarbia and lethargy.
   # Hypoxia/Hypercarbia: This is likley multifactorial but most likely
   [**12-19**] to known diastolic heart failure and mild flash pulmonary edema.
   CXR shows moderate CHF with bilateral pleural effusions.  Patient
   requiring intermittent BIPAP. Worsening dyspnea most likely secondary
   to diastolic dysfunction, now effectively being diuresed with
   symptomatic improvement. TTE yest demonstrated no evidence of ASD. She
   has severe TR and suprasystemic pulmonary HTN
   - continue Lasix with goal 1.5L neg
   - will add digoxin at low doses given renal dysfunction
   - cont BIPAP PRN
   - appreciate Cards recs
   - cont albuterol/atrovent nebs PRN
   .
   # CHF: continue lasix with goal neg 1.5L . Restart metoprolol, will
   also add digoxin at low dose
   -- appreciate cards recs
   .
   # Atrial Fibrillation: not on coumadin [**12-19**] CVA.
   -- increase ASA to 325mg daily
   - Cards to interrogate pacer
   -- restarted Metoprolol
   # Lower extremity erythema: per medical records, this has been
   documented in the past, likely from venous stasis
   - cont to monitor
   - elevate legs
    .
   # CRI: Cr at baseline. will monitor in setting of diuresis.
    .
   # FEN: cardiac heart healthy diet, fluid restriction 1200ml/day
   - replete lytes prn with diuresis
   .
   # Prophylaxis: Hep SQ
   .
   # Access: PIV
   .
   # Code: full
   .
   # Communication: with patient
   .
   # Disposition: pending improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2140-12-28**] 08:20 PM
   20 Gauge - [**2140-12-28**] 08:57 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:ICU
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: Mrs [**Known lastname 7320**] feels she is breathing better
   today. She continues to decline BiPAP with sleep.
   Exam notable for obese ruddy ccomplexioned woman, sleepy but
   arousable, Tm of 98.2 BP120/52 HR of 60 RR of [**6-26**] with sats of 88%  on
   6 lpm NC O2 . She has resolving edema and improving air entry at both
   bases.
   Labs notable for WBC4.8 K, HCT34.5 , K+4.1 , Cr 1.8 ( 2.0). CXR with
   small lung volumes and massive cardiomegaly.
   Agree with plan to diruese ( PO lasix with metolazone) and continue
   diamox for now. This can only help with propensity to complex sleep
   apnea with the generation of mild metabolic acidosis. If she can
   tolerate diuertics today without hypotension, she will transition to
   telemetry with altered thersholds for repeat ICU transfer.
   Remainder of plan as outlined above.
   Patient is critically and chronically ill
   Total time: 35 [**First Name8 (NamePattern2) **]
   [**First Name8 (NamePattern2) **] [**Doctor Last Name 1973**]..M.D.
   ------ Protected Section ------
   Physical Exam:
   Gen: NAD, sitting in bed with nasal cannula in place
   CVS: +S1/S2,I/VI SEM RUSB, no /r/g, rrr
   LUNGS: +mild crackles at bilateral bases, no wheezing
   ABD: +BS, NT/ND
   EXT: +venous stasis bilateral LE
   Please disregard Assesment and Plan above.  Attending signed the note
   before I had the chance to complete the assessment and Plan.
   Assessment and Plan
   This is an 80 year old Russian speakin female with hx of Diastolic CHF,
   COPD, OSA, Pulmonary HTN on 6L home O2 who is transferred to the ICU
   with hypoxemia/hypercarbia and lethargy.
   # Hypoxia/Hypercarbia: Mulitifactorial but acute exacerbation requiring
   transfer to the MICU most likely [**12-19**] to known diastolic heart failure
   and mild flash pulmonary edema.  Plan is to continue diuresis.  Will
   change Lasix IV to PO and add metolazone.  Wil cont diamox as this will
   help with generation of mild metabolic acidosis and prevent apneic
   episodes.
   - continue Lasix and diamox with goal 1.5L neg, add metolazone.  Change
   lasix to PO
   - cont digoxin at low doses given renal dysfunction
   - cont BIPAP PRN
   - appreciate Cards recs
   - cont albuterol/atrovent nebs PRN
   # CHF: continue diuresis as above  with goal neg 1.5L . Restart
   metoprolol, will also add digoxin at low dose
   -- appreciate cards recs
   # Atrial Fibrillation: not on coumadin [**12-19**] CVA.
   -- cont  ASA to 325mg daily
   -- cont Metoprolol and digoxin
   # Lower extremity erythema: per medical records, this has been
   documented in the past, likely from venous stasis
   - cont to monitor
   - elevate legs
    .# CRI: Cr at baseline. will monitor in setting of diuresis.
    .# FEN: cardiac heart healthy diet, fluid restriction 1200ml/day
   - replete lytes prn with diuresis
   .# Prophylaxis: Hep SQ
   # Access: PIV
   .# Code: full
   .
   # Communication: with patient
   .
   # Disposition: pending improvement
   ------ Protected Section Addendum Entered By:[**Name (NI) 4238**] [**Last Name (NamePattern1) 4239**], MD
   on:[**2140-12-31**] 13:11 ------

2141-01-01 07:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2141-1-1**] 01:16 AM
 NON-INVASIVE VENTILATION - STOP [**2141-1-1**] 02:36 AM
   Lasix changed to PO yesterday, received 1^st dose at 8pm along with
   Metolazone with no increase in UOP
   Attempted BIPAP last night but patient refused after one hour.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2140-12-31**] 07:34 AM
   Heparin Sodium (Prophylaxis) - [**2140-12-31**] 11:59 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-1-1**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.7
C (96.3
   HR: 60 (60 - 69) bpm
   BP: 116/54(69) {91/37(52) - 127/66(78)} mmHg
   RR: 19 (18 - 25) insp/min
   SpO2: 85%
   Heart rhythm: A Paced
                  Total In:
                                                                    997 mL
                  PO:
                                                                    600 mL
                  TF:
   IVF:
                                                                    397 mL
   Blood products:
   Total out:
                                                                  2,060 mL
                                                                    900 mL
   Urine:
                                                                  2,060 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,063 mL
                                                                   -900 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 484 (484 - 484) mL
   PS : 10 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 15 cmH2O
   SpO2: 85%
   ABG: ///40/
   Ve: 2.9 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   194 K/uL
   10.5 g/dL
   148 mg/dL
   2.0 mg/dL
   40 mEq/L
   3.7 mEq/L
   55 mg/dL
   97 mEq/L
   144 mEq/L
   34.3 %
   5.3 K/uL
        [image002.jpg]
                             [**2140-12-28**]  08:37 PM
                             [**2140-12-28**]  09:04 PM
                             [**2140-12-28**]  10:46 PM
                             [**2140-12-29**]  04:26 AM
                             [**2140-12-29**]  08:39 PM
                             [**2140-12-30**]  03:57 AM
                             [**2140-12-30**]  04:00 PM
                             [**2140-12-31**]  04:55 AM
                             [**2141-1-1**]  03:55 AM
   WBC
   6.1
   4.7
   4.5
   4.8
   5.3
   Hct
   32.9
   31.1
   29.8
   34.5
   34.3
   Plt
   183
   185
   170
   173
   194
   Cr
   1.9
   1.8
   1.9
   1.8
   1.8
   1.8
   2.0
   TropT
   0.01
   0.02
   TCO2
   40
   42
   Glucose
   131
   99
   111
   95
   103
   90
   148
   Other labs: PT / PTT / INR:14.6/30.0/1.3, CK / CKMB /
   Troponin-T:35//0.02, Lactic Acid:0.9 mmol/L, Ca++:9.0 mg/dL, Mg++:2.6
   mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 HYPOXEMIA
 IMPAIRED SKIN INTEGRITY
   Assessment and Plan
   This is an 80 year old Russian speakin female with hx of Diastolic CHF,
   COPD, OSA, Pulmonary HTN on 6L home O2 who is transferred to the ICU
   with hypoxemia/hypercarbia and lethargy.
   # Hypoxia/Hypercarbia: Mulitifactorial but acute exacerbation requiring
   transfer to the MICU most likely [**12-19**] to known diastolic heart failure
   and mild flash pulmonary edema.  Plan is to continue diuresis.  Will
   change Lasix IV to PO and add metolazone.  Wil cont diamox as this will
   help with generation of mild metabolic acidosis and prevent apneic
   episodes.
   - continue Lasix and diamox with goal 1.5L neg, add metolazone.  Change
   lasix to PO
   - cont digoxin at low doses given renal dysfunction
   - cont BIPAP PRN
   - appreciate Cards recs
   - cont albuterol/atrovent nebs PRN
   # CHF: continue diuresis as above  with goal neg 1.5L . Restart
   metoprolol, will also add digoxin at low dose
   -- appreciate cards recs
   # Atrial Fibrillation: not on coumadin [**12-19**] CVA.
   -- cont  ASA to 325mg daily
   -- cont Metoprolol and digoxin
   # Lower extremity erythema: per medical records, this has been
   documented in the past, likely from venous stasis
   - cont to monitor
   - elevate legs
    .# CRI: Cr at baseline. will monitor in setting of diuresis.
    .# FEN: cardiac heart healthy diet, fluid restriction 1200ml/day
   - replete lytes prn with diuresis
   .# Prophylaxis: Hep SQ
   # Access: PIV
   .# Code: full
   .
   # Communication: with patient
   .
   # Disposition: pending improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2140-12-28**] 08:20 PM
   20 Gauge - [**2140-12-31**] 10:16 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: Mrs [**Known lastname 7320**] feels she is breathing better
   today. She continues to decline BiPAP with sleep.
   Exam notable for obese ruddy complexioned woman, sleepy but
   arousable, Tm of 97.9 BP120/52 HR of 60 RR of [**6-26**] with sats of 88%  on
   6 lpm NC O2 . She has resolving edema and improving air entry at both
   bases. She is a liter negative with PO diuretics.
   Labs notable for WBC 5 K, HCT 34.3 , K+ 3.7 , Cr  2.0. CXR with small
   lung volumes and massive cardiomegaly but possible improvement in
   effusions
   Agree with plan to diruese ( PO lasix with metolazone) and continue
   diamox for now. This can only help with propensity to complex sleep
   apnea with the generation of mild metabolic acidosis. If she can
   tolerate diuretics today without hypotension, she will transition to
   telemetry with altered thersholds for repeat ICU transfer.
   Alteranatively, she will need to be screened for NH/[**Hospital1 169**] given severe
   medical issues.
   Remainder of plan as outlined above.
   Patient is chronically ill
   Total time: 35 min

2141-01-02 07:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   patient diuresed about -1.9 L in 24 hours
   used bipap for 3 hours overnight
   c/o right sided abdominal pain this morning
   SW c/s placed yesterday for ?placement
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2141-1-2**] 12:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-1-2**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 60 (60 - 61) bpm
   BP: 106/43(58) {91/39(51) - 131/69(82)} mmHg
   RR: 22 (16 - 25) insp/[**Year (4 digits) **]
   SpO2: 90%
   Heart rhythm: A Paced
   Wgt (current): 98.8 kg (admission): 99.2 kg
                  Total In:
                                                                    350 mL
                                                                     50 mL
   PO:
                                                                    350 mL
                                                                     50 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,275 mL
                                                                    750 mL
   Urine:
                                                                  2,275 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,925 mL
                                                                   -700 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 212 (212 - 212) mL
   PS : 10 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 15 cmH2O
   SpO2: 90%
   ABG: ///33/
   Ve: 4.1 L/[**Year (4 digits) **]
   Physical Examination
   Gen: alert, oriented
   HEENT: MMM, sclera anicteric
   CV: RRR, II/VI SM
   Resp: poor air exchange, + crackles at bases
   Abd: soft, NT/ND NABS
   Ext: 2+ LE edema, chronic venous changes
   Labs / Radiology
   161 K/uL
   10.9 g/dL
   88 mg/dL
   2.1 mg/dL
   33 mEq/L
   3.8 mEq/L
   57 mg/dL
   96 mEq/L
   139 mEq/L
   35.0 %
   5.8 K/uL
        [image002.jpg]
                             [**2140-12-28**]  09:04 PM
                             [**2140-12-28**]  10:46 PM
                             [**2140-12-29**]  04:26 AM
                             [**2140-12-29**]  08:39 PM
                             [**2140-12-30**]  03:57 AM
                             [**2140-12-30**]  04:00 PM
                             [**2140-12-31**]  04:55 AM
                             [**2141-1-1**]  03:55 AM
                             [**2141-1-1**]  04:37 PM
                             [**2141-1-2**]  04:10 AM
   WBC
   6.1
   4.7
   4.5
   4.8
   5.3
   5.8
   Hct
   32.9
   31.1
   29.8
   34.5
   34.3
   35.0
   Plt
   183
   185
   170
   173
   194
   161
   Cr
   1.9
   1.8
   1.9
   1.8
   1.8
   1.8
   2.0
   2.0
   2.1
   TropT
   0.01
   0.02
   TCO2
   42
   Glucose
   131
   99
   111
   95
   103
   90
   148
   102
   88
   Other labs: PT / PTT / INR:14.6/30.0/1.3, CK / CKMB /
   Troponin-T:35//0.02, Lactic Acid:0.9 mmol/L, Ca++:8.7 mg/dL, Mg++:2.7
   mg/dL, PO4:4.6 mg/dL
   MICRO:
   blood cx negative x 2 on [**12-22**]
   urine cx negative
   Assessment and Plan
   This is an 80 year old Russian speakin female with hx of Diastolic CHF,
   COPD, OSA, Pulmonary HTN on 6L home O2 who is transferred to the ICU
   with hypoxemia/hypercarbia and lethargy.
    .
   # Hypoxia/Hypercarbia: Mulitifactorial but acute exacerbation requiring
   transfer to the MICU most likely [**12-19**] to known diastolic heart failure
   and mild flash pulmonary edema.  Plan is to continue diuresis. Lasix IV
   gtt now transitioned to PO at 80mg [**Hospital1 **] and metolazone added. Wil cont
   diamox as this will help with generation of mild metabolic acidosis and
   prevent apneic episodes.
   - Pt neg 2L yest with bump in Cr, will decrease lasix to 80mg daily and
   metolazone daily with goal 1L neg
   - cont digoxin at low doses given renal dysfunction
   - cont BIPAP PRN
 pt intermittently agreeable
   - appreciate Cards recs
   - cont albuterol/atrovent nebs PRN
   .
   # CHF: continue diuresis as above with goal neg 1.0L . Restart
   metoprolol, will also continue digoxin at low dose
   -- appreciate cards recs
   .
   # Atrial Fibrillation: not on coumadin [**12-19**] CVA.
   -- cont  ASA to 325mg daily
   -- cont Metoprolol and digoxin
    .
   # Lower extremity erythema: per medical records, this has been
   documented in the past, likely from venous stasis
   - cont to monitor
   - elevate legs
   .
    .# CRI: Cr at baseline. will monitor in setting of diuresis.
    .
    .# FEN: cardiac heart healthy diet, fluid restriction 1200ml/day
   - replete lytes prn with diuresis
   .
   .# Prophylaxis: Hep SC
   .
   # Access: PIV
   .
   .# Code: full
   .
   # Communication: with patient
   .
   # Disposition: pending improvement, will likely benefit from rehab
   placement, pt refused last evening, should discuss with PCP
   ICU [**Name9 (PRE) **]
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2140-12-31**] 10:16 PM
   Prophylaxis:
   DVT: PPI
   Stress ulcer:  heparin SC
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  Full
   Disposition: call out to cardiology floor
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: Mrs [**Known lastname 7320**] feels she is breathing better
   today. She used BiPAp for 3 hrs last night with sleep. She has
   effectively diuresed 1.9 L over past 24 hrs.
   Exam notable for obese ruddy ccomplexioned woman, sleepy but
   arousable, Tm of 98.2 BP120/52 HR of 60 RR of [**6-26**] with sats of 88%  on
   6 lpm NC O2 . She has resolving edema and improving air entry at both
   bases.
   Labs notable for WBC 5.8 K, HCT35.5 , K+3.8 , Cr 2.1( 2.0). CXR with
   small lung volumes and massive cardiomegaly.
   Agree with plan to diruese ( PO lasix with metolazone) and continue
   diamox for now. we will recheck ABG today.  If she can tolerate
   diuertics today without hypotension, she will transition to telemetry
   with altered thresholds for repeat ICU transfer. Disposition is the out
   of hospital setting is the the bigger issue and her PCP ( Dr [**Last Name (STitle) 8093**]
   will help along these lines. Remainder of plan as outlined above.
   Patient is critically and chronically ill
   Total time: 35 [**First Name8 (NamePattern2) **]
   [**First Name8 (NamePattern2) **] [**Doctor Last Name 1973**].M.D.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 1973**], MD
   on:[**2141-1-2**] 11:59 AM ------